US05237063
Methyl 2-(4-fluoro-6-trifluoromethoxy-2-pyrimidinylaminocarbonylaminosulfonyl)benzoate
3.6 g (0.015 mol) of 2-methoxycarbonylbenzenesulfonyl isocyanate in 15 ml of 1,2-dichloroethane were added over the course of 15 minutes to a stirred mixture of 2.95 g (0.015 mol) of 2-amino-4-fluoro-6-trifluoromethoxypyrimidine and 100 ml of 1,2-dichloroethane at 25° C., and the mixture was stirred at 25° C. for 12 hours. The solution was concentrated under reduced pressure, and the residue was stirred with 1:1 ether/petroleum ether. Filtration with suction and drying yielded 4.8 g (73.3% of theory) of the title compound of melting point 157°-161° C.

reactant | 2-methoxycarbonylbenzenesulfonyl isocyanate | 0.015 mol, 3.6 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
reactant | 2-amino-4-fluoro-6-trifluoromethoxypyrimidine | 0.015 mol, 2.95 g | NC1=NC(=CC(=N1)F)OC(F)(F)F | C5H3F4N3O
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | Methyl 2-(4-fluoro-6-trifluoromethoxy-2-pyrimidinylaminocarbonylaminosulfonyl)benzoate | FC1=NC(=NC(=C1)OC(F)(F)F)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C14H10F4N4O6S
